US06344283B1
In a 200 ml reaction vessel 26 grams of N,N-diphenyl-1,4-phenylenediamine and 22 grams of 3-iodotoluene were heated together with 0.3 grams of activated copper powders, 50 grams of potassium carbonate and 50 ml of decalin at an oil bath temperature of 200° C. for 24 hours in an Ar atmosphere. After the completion of the reaction, the reaction solution was filtrated with the addition of 100 ml of toluene thereto, thereby removing insolubles. The filtrate was washed with water, and dried over sodium sulfate. Following this, the solvent was removed by distillation from the filtrate, and the residue was purified twice by means of a silica gel column (using a mixed solvent of n-hexane and toluene as a developing solvent), thereby obtaining 17 grams of N,N′-diphenyl-N-(3-tolyl)-1,4-phenylenediamine.

reactant | N,N-diphenyl-1,4-phenylenediamine | 26 grams | C1(=CC=CC=C1)N(C1=CC=C(C=C1)N)C1=CC=CC=C1 | C18H16N2
reactant | 3-iodotoluene | 22 grams | IC=1C=C(C=CC1)C | C7H7I
reactant | potassium carbonate | 50 grams | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 0.3 grams | [Cu] | Cu
solvent | decalin | 50 ml | C1CCCC2CCCCC12 | C10H18
product | N,N′-diphenyl-N-(3-tolyl)-1,4-phenylenediamine | 17 grams | C1(=CC=CC=C1)N(C1=CC=C(C=C1)NC1=CC=CC=C1)C=1C=C(C=CC1)C | C25H22N2
